* \\vmware-host\Shared Folders\Documents\DEV\sck-adc\simetrix files\8.00\zuyev_1.1_ideal integrator.sxsch
*#SIMETRIX
X1 Vbias S1_N Vdd Vss S1_P PARAM_OPAMP params: VOS=0 IB=0 IBOS=0 A0=1G GBW=3Meg SR_POS=1G SR_NEG=1G CMRR=1G PSRR=1G RIN=1G ROUT=0 IQ=1m VDIFF_POS=0 VDIFF_NEG=0 VOFF_TOL=0 pinnames: inp inn vsp vsn out
V1 Vdd 0 10
V2 Vbias 0 5
R1 S1_N Vin 10k
V3 Vin 0 4
V4 Vss 0 0
A$U1 U1_pin_1 U1$TP_DPULSE : Period=1.001m width=1u delay=1m 
.model U1$TP_DPULSE d_pulse period=1u min_sink=-0.02 max_source=0.02
X$S1 S1_P S1_N U1_pin_1 0 gen_switch : RON=1  ROFF=1Meg VON=3  VOFF=2  pinnames: P N CP CN
C2 S1_P S1_N 100n IC=0  BRANCH={IF(ANALYSIS=2,1,0)}
.GRAPH S1_P axisType="auto" persistence=-1 curveLabel="int-out" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.TRAN 2m
.OPTIONS cshuntsub
9.SIMULATOR SIMETRIX

